US09340545B2
Intermediate B: N,N-bis(2-Methoxyethyl)hex-5-ynamide
To a solution of hex-5-ynoic acid (7.11 g, 63.4 mmol), EDC.HCl (14.0 g, 72.9 mmol) and DMAP (387 mg, 3.17 mmol) in DCM (600 mL) at 0° C. was added bis(2-methoxyethyl)amine (9.3 mL, 63 mmol). The resulting mixture was warmed to RT for 20 hr and was then washed with hydrochloric acid (1 M, 2×500 mL) and water (500 mL). The organic layer was dried and evaporated in vacuo to afford the title compound, Intermediate B, as a yellow oil (16 g, 97%): 1H NMR (400 MHz, CDCl3) δ: 1.88 (3H, m), 2.26 (2H, m), 2.49 (2H, m), 3.32 (6H, s), 3.51 (4H, m), 3.55 (4H, m)

reactant | hex-5-ynoic acid | 63.4 mmol, 7.11 g | C(CCCC#C)(=O)O | C6H8O2
reactant | EDC.HCl | 72.9 mmol, 14.0 g | CCN=C=NCCCN(C)C.Cl
reactant | bis(2-methoxyethyl)amine | 63 mmol, 9.3 mL | COCCNCCOC | C6H15NO2
catalyst | DMAP | 3.17 mmol, 387 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 600 mL | C(Cl)Cl | CH2Cl2
product | N,N-bis(2-Methoxyethyl)hex-5-ynamide | COCCN(C(CCCC#C)=O)CCOC | C12H21NO3
